US07635700B2
To a stirred suspension of 3-(5-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride (0.53 g, 1.6 mmol) and triethylamine (0.31 mL, 2.2 mmol) in THF (15 mL) at 5˜10° C., was added 3,4-dimethyl phenyl isocyanate (0.29 mL, 2.1 mmol). Then the mixture was stirred at room temperature overnight. The mixture was quenched with methanol (1 mL), and the solvent was evaporated. The residue was purified by flash column chromatography (Silica gel, methanoumethylene chloride 4%/96%) to give 1-(3,4-dimethyl-phenyl)-3-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-ylmethyl]-urea as an off-white solid (520 mg, 73% yield); HPLC, Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 10/90 CH3CN/0.1% H3PO4, grad. to 95/5 in 5 min, kept 5 min, 6.14 min (96.6%); mp, 241-243° C.; 1HNMR (DMSO-d6) 2.11-2.21 (m, 7H, CHI, 2ArCH3), 2.59-2.94 (m, 6H, CHCH2, CH3), 4.71 (d, J=5 Hz, 2H, CH2NH), 5.27 (dd, J=6, 11 Hz, 1H, CH), 6.56 (t, J=5 Hz, 1H, CH2NH), 6.92-7.78 (m, 6H, Ar), 8.58 (s, 1H, NH), 11.05 (s, 1H, NH); 13C NMR (DMSO-d6) δ 18.58, 19.59, 20.70, 23.24, 30.62, 42.26, 56.52, 115.18, 117.76, 118.99, 125.54, 126.28, 128.50, 129.46, 134.01, 136.03, 138.15, 141.69, 148.27, 154.87, 155.11, 160.94, 169.47, 172.65. LCMS MH=448; Anal Calcd For C24H25N5O4+2.0H2O: C, 59.62; H, 6.05; N, 14.48. Found: C, 59.36; H, 5.95; N, 14.24.

reactant | 3-(5-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride | 1.6 mmol, 0.53 g | Cl.NCC1=C2C(N(C(=NC2=CC=C1)C)C1C(NC(CC1)=O)=O)=O
reactant | triethylamine | 2.2 mmol, 0.31 mL | C(C)N(CC)CC | C6H15N
reactant | 3,4-dimethyl phenyl isocyanate | 2.1 mmol, 0.29 mL | CC=1C=C(C=CC1C)N=C=O | C9H9NO
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 1-(3,4-dimethyl-phenyl)-3-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-ylmethyl]-urea | 520 mg, 73% yield | CC=1C=C(C=CC1C)NC(=O)NCC1=C2C(N(C(=NC2=CC=C1)C)C1C(NC(CC1)=O)=O)=O | C24H25N5O4
